US07338959B2
N5-[2-(4-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example one with N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 4-[(methylsulfonyl)methyl]aniline (46 mg, 0.25 mmol) as a white solid (141 mg, 97%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.21 (s, 1H), 7.76-7.79 (M, 3H), 7.50 (br s, 1H), 7.22-7.30 (m, 5H), 7.09-7.14 (M, 3H), 6.86 (d, J=8.4 Hz, 1H), 5.64 (d, J=6.0 Hz, 1H), 4.55 (d, J=5.4 Hz, 2H), 4.34 (s, 2H), 3.58 (s, 3H), 3.43 (s, 3H), 2.85 (s, 3H), 2.26 (s, 3H). MS (ESI) m/z=542 [M+H].

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)C)C)C=C1)C | C21H21ClN6
reactant | 4-[(methylsulfonyl)methyl]aniline | 0.25 mmol, 46 mg | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
product | N5-[2-(4-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.CS(=O)(=O)CC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)C)C)C=C1)C | InChI=1S/C29H31N7O2S.ClH/c1-20-5-7-21(8-6-20)18-31-29-33-25-17-24(13-14-26(25)36(29)3)35(2)27-15-16-30-28(34-27)32-23-11-9-22(10-12-23)19-39(4,37)38;/h5-17H,18-19H2,1-4H3,(H,31,33)(H,30,32,34);1H
